US04338333
N-[2-(4-Carbomethoxymethoxyphenyl)-1-methylethyl]-2-hydroxy-2-(3-trifluoromethylphenyl) ethanamine
The compound was prepared as in Example 5 from 1-(4-carbomethoxymethoxyphenyl)propan-2-one (2.22 g) and 2-hydroxy-2-(3-trifluoromethylphenyl) ethanamine (2.05 g). The compound crystallised from hexane m.p. 70°-85° as a 1:1 mixture of diastereoisomers.

reactant | 1-(4-carbomethoxymethoxyphenyl)propan-2-one | 2.22 g | C(=O)(OC)COC1=CC=C(C=C1)CC(C)=O | C12H14O4
reactant | 2-hydroxy-2-(3-trifluoromethylphenyl) ethanamine | 2.05 g | OC(CN)C1=CC(=CC=C1)C(F)(F)F | C9H10F3NO
product | N-[2-(4-Carbomethoxymethoxyphenyl)-1-methylethyl]-2-hydroxy-2-(3-trifluoromethylphenyl) ethanamine | C(=O)(OC)COC1=CC=C(C=C1)CC(C)NCC(C1=CC(=CC=C1)C(F)(F)F)O | C21H24F3NO4
